US08030306B2
To a round bottom flask was added (S)-4-(3-(1-(benzyloxy)ethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile (30 mg, 0.0458 mmol), CH3CN (2 ml) and TMSI (244 mg, 1.22 mmol). The reaction was stirred at 60° C. under argon for 4 days. After this time, the reaction mixture was with EtOAc (50 ml). The resulting organic solution was wash with water (20 ml), 10% NaHSO3(20 ml) and saturated NaCl (20 ml). The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (8 g silica gel) eluting with a gradient of 0-80% EtOAc/Hex to give product (R)-4-(8-(4-chlorophenyl)-3-(1-hydroxyethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile as a white solid (8 mg, 31% yield).

reactant | (S)-4-(3-(1-(benzyloxy)ethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 0.0458 mmol, 30 mg | C(C1=CC=CC=C1)O[C@@H](C)C1=NN=C2N1N(C(C(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C#N)C=C2)=O)CC=2C(=NC(=CC2)C(F)(F)F)C | C35H26ClF3N6O2
reactant | CH3CN | 2 ml | CC#N | C2H3N
reactant | TMSI | 1.22 mmol, 244 mg | [Si](C)(C)(C)I | C3H9ISi
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | (R)-4-(8-(4-chlorophenyl)-3-(1-hydroxyethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 8 mg, 31% yield | ClC1=CC=C(C=C1)C=1C=2N(N(C(C1C1=CC=C(C#N)C=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)C(=NN2)[C@@H](C)O | C28H20ClF3N6O2
